US09102899B2
Butanone (45.0 g, 0.63 mol) is added to the mixture of benzyl cyanide (58.5 g, 0.50 mol) and sodium methoxide (30% in MeOH, 34.3 ml, 0.185 mol) and the resulting suspension is heated to 60° C. (oilbath) and stirred for 6 h at this temperature. The product is extracted with cyclohexane, washed with dilute NaHCO3-solution and brine. The organic layer is dried over MgSO4, the solvent removed under reduced pressure and the residue distilled over a short-path apparatus at 0.05 mbar. The fraction distilling at 90° C. is collected (45 g) and subjected to a fine distillation over a Widmer-column to yield olfactorily pure 3-methyl-2-phenyl-pent-2-ene nitrile (19 g, 22%) as a colourless oil (b.p. 102° C./0.05 mbar). (E/Z) ratio about 55:45.

reactant | Butanone | 0.63 mol, 45.0 g | CC(CC)=O | C4H8O
reactant | benzyl cyanide | 0.50 mol, 58.5 g | C(C1=CC=CC=C1)C#N | C8H7N
reactant | sodium methoxide | 0.185 mol, 34.3 ml | C[O-].[Na+]
product | 3-methyl-2-phenyl-pent-2-ene nitrile | 19 g, 22% | CC(=C(C#N)C1=CC=CC=C1)CC | C12H13N
